US04692458
Synthesis of Nα -cyclopentanecarbonylphenylalanine
A cool solution of 2.06 gm of dicyclohexylcarbodiimide in 10 ml of dichloromethane was added to a solution of 1.4114 gm of cyclopentanecarboxylic acid in 5 ml of dichloromethane at -5° C. It was followed by the addition of 4.28 gm of phenylalanine benzyl ester touluenesulfonate salt in 10 ml of DMF which was neutralized with 1.36 ml of N-ethyl morpholine. The reaction mixture was stirred at 0° C. for one hour and then at room temperature for three hours. Dicyclohexylurea was removed by filtration and 50 ml of ethyl acetate was added to the filtrate. The organic phase was washed until neutral, dried over anhydrous MgSO4 and filtered. The solvent was removed with a rotary evaporator. The residue was crystallized from isopropanol and hexane yielding 2.35 gm of white crystals having a melting point of 88°-89° C. Elemental analysis of these crystals yielded the following.

reactant | dicyclohexylcarbodiimide | 2.06 gm | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | cyclopentanecarboxylic acid | 1.4114 gm | C1(CCCC1)C(=O)O | C6H10O2
reactant | phenylalanine benzyl ester | 4.28 gm | C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O | C16H17NO2
reactant | N-ethyl morpholine | 1.36 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Nα -cyclopentanecarbonylphenylalanine | C1(CCCC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C15H19NO3
